US08629147B2
4-Bromo-2-dimethoxymethylphenol
A mixture of 5-bromosalicylaldehyde (41.0 g, 0.200 mol), trimethyl orthoformate (205 ml, 1.83 mol) and dry p-toluenesulfonic acid (1.77 g, 0.010 mol) was refluxed for 24 h. After the reaction mixture was cooled to the RT, sodium bicarbonate (50 g) was carefully added, and the mixture was ultrasonicated for 5 min. The liquid was separated; the solid was washed with dry benzene (25 ml) and removed by filtration. Combined solutions were evaporated. The residue was triturated with dry hexane (30 ml) if necessary cooled to −18° C. Precipitate formed was collected by filtration, washed with dry hexane (20 ml). Slightly yellow crystals, 44.2 g (0.179 mol, 89%).

reactant | 5-bromosalicylaldehyde | 0.200 mol, 41.0 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | trimethyl orthoformate | 1.83 mol, 205 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid | 0.010 mol, 1.77 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 50 g | C([O-])(O)=O.[Na+]
product | 4-Bromo-2-dimethoxymethylphenol | BrC1=CC(=C(C=C1)O)C(OC)OC | C9H11BrO3
